### PR TITLE
chore: drop the superseded Frobenius functional package

### PR DESCRIPTION
**Pull request by sqrt-of-2**
**Superseded — this PR is now empty and should be closed.**

It was cut at `fc7a5c3` to add a Frobenius-functional package on the `StablePeriodicCurved`
Layer 0 critical path. Since then #6833 landed `TauCeti/Algebra/Algebra/Frobenius/Basic.lean` on
`main`, which defines `LinearMap.IsFrobeniusFunctional` and
`LinearMap.IsSymmetricFrobeniusFunctional`, proves the perfect-pairing result
(`LinearMap.IsFrobeniusFunctional.isPerfPair`), characterizes Frobenius functionals by
right-module isomorphisms `A ≅ A⁺` (`LinearMap.exists_isFrobeniusFunctional_iff`), and continues
to the Nakayama automorphism and two-sided self-injectivity — the whole roadmap paragraph this PR
was aiming at, and more.

Every declaration here (`RightDual`, `LinearMap.mulPairing`, `FrobeniusFunctional`,
`SymmetricFrobeniusFunctional`, the right-dual equivalence) was therefore a second surface for
mathematics already on `main`, which is what the `reuse` review blocked. The last commit deletes
`TauCeti/Algebra/Frobenius/Functional.lean`, leaving no diff against `main`.

The one thing `main` does not yet have is the *pointwise* form of
`LinearMap.exists_isFrobeniusFunctional_iff` — a bijection between Frobenius functionals and
right-module isomorphisms `A ≅ A⁺`, rather than the equivalence of their existence. That has to be
written into `TauCeti/Algebra/Algebra/Frobenius/Basic.lean`, which does not exist on this branch's
base, so it belongs to a branch cut from current `main`. A version of it, verified green against
`main` (`c48efdc`), is recorded in the `reuse` review thread.

Roadmap: StablePeriodicCurved

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by kim-em** [comment]
🔍 Review in progress — `codex` reviewing `06e5ce5fc164`.

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (kim-em) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

Two injectivity proofs rederive Mathlib’s standard separating-form/kernel API.

- `TauCeti/Algebra/Frobenius/Functional.lean:131` — `pairing_injective` and `pairing_flip_injective` (line 142) manually prove injectivity by subtraction, duplicating the generic separating-form/kernel bridge. _Fix:_ Derive them from `LinearMap.separatingLeft_iff_ker_eq_bot` and `LinearMap.ker_eq_bot.mp`, using `lambda.left_nondegenerate` for `pairing` and `lambda.right_nondegenerate` for `pairing.flip`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 81s · 266.8k in / 1.8k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...06e5ce5fc164a541a34c8659be40f83f64ccc7bb) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md)</sub>

Comment (kim-em) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The right-dual equivalence lacks a public characteristic evaluation lemma, forcing consumers to reproduce its module-linearity argument.

- `TauCeti/Algebra/Frobenius/Functional.lean:187` — `rightDualEquiv_apply` is private, although `e a b = e 1 (a * b)` is the essential elimination rule for every exposed right-module equivalence and is already required to characterize `ofRightDualEquiv`. _Fix:_ Make it public with a descriptive `*_apply_apply` name and mark it `@[simp]` so arbitrary right-dual equivalences reduce to their value at `1`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 43s · 89.7k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...06e5ce5fc164a541a34c8659be40f83f64ccc7bb) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/api-design.md)</sub>

Comment (kim-em) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### 🟡 proof-quality — request_changes  `codex/gpt-5.6-sol`

One public proof relies on undocumented definitional equality through a Mathlib equivalence constructor.

- `TauCeti/Algebra/Frobenius/Functional.lean:185` — `toRightDualEquiv_apply_apply` is proved by `rfl`, relying on the implementation of `LinearEquiv.ofBijective` to preserve the wrapped map's forward function definitionally. _Fix:_ Prove it using the explicit API lemma `LinearEquiv.ofBijective_apply` and `toRightDualLinearMap_apply_apply` (unfolding only `toRightDualEquiv` as needed).

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 46s · 91.1k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...06e5ce5fc164a541a34c8659be40f83f64ccc7bb) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/proof-quality.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions, handedness conventions, nondegeneracy conditions, and finite-dimensional equivalence faithfully match the roadmap target. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | Two injectivity proofs rederive Mathlib’s standard separating-form/kernel API. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR directly implements the Frobenius-functional and right-dual equivalence specified in StablePeriodicCurved Layer 0, and its symmetric-functional addition is part of the same roadmap paragraph and coherent topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module documentation credits both central references, including the relevant sections, and no vendored or closely adapted formalization requiring additional attribution was identified. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The right-dual equivalence lacks a public characteristic evaluation lemma, forcing consumers to reproduce its module-linearity argument. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use assumptions matching the roadmap’s field-valued, associative finite-dimensional algebra setting, while finite-dimensionality is confined to the perfect-pairing equivalence where it is needed. No material generality issue found. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The Frobenius-functional API is naturally placed in `TauCeti/Algebra/Frobenius/Functional.lean`, and each imported Mathlib module supports declarations used directly in the file. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow existing TauCeti and Mathlib terminology, and use appropriate namespaces. No notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and its substantive public declarations are documented accurately, with mathematical motivation, handedness, finite-dimensional hypotheses, and references clearly stated. |
| 🟡 | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/proof-quality.md) | changes requested | `codex/gpt-5.6-sol` | One public proof relies on undocumented definitional equality through a Mathlib equivalence constructor. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...06e5ce5fc164a541a34c8659be40f83f64ccc7bb) at head `06e5ce5`. rubrics @ [`603b280`](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics). Review spend: $2.28.</sub>

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (sqrt-of-2) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: The substantive API gap is fixed in 0861794b3: rightDualEquiv_apply_apply is now public, descriptively named, documented, and used internally. I am contesting only the requested @[simp] registration. Its left side is e a b for arbitrary e, so after coercion/weak-head normalization the head is a variable; Mathlib deliberately avoids simp attributes for this shape (for example, Mathlib/Combinatorics/Quiver/Prefunctor.lean says such lemmas cannot be simp because whnf leaves a variable on the LHS, and Mathlib/Data/Set/Operations.lean gives the same rule). I also tested the attribute here: lake build TauCeti.Algebra.Frobenius.Functional then failed in the existing ofRightDualEquiv_toRightDualEquiv simp proof, because the generic rule preempted toRightDualEquiv_apply_apply and left the residual goal (lambda.toRightDualEquiv 1) (1 * a) = lambda.functional a. Without the unsafe attribute, the full build and environment linter pass. Consumers can use the public lemma explicitly with rw, while the existing canonical-equivalence simp lemma remains effective.

Comment (ldct) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ⛔ reuse — block  `codex/gpt-5.6-sol`

The right-dual action duplicates TauCeti’s existing canonical dual-action construction.

- `TauCeti/Algebra/Frobenius/Functional.lean:65` — The `SMul` and `Module` instances at lines 65–94 manually reimplement the existing `TauCeti.dualRightAction` API. _Fix:_ Import `TauCeti.LinearAlgebra.Dual.RightAction` and build the specialized module with `Module.compHom (RightDual k A) (dualRightAction (A := Aᵐᵒᵖ) k A)`; derive the application lemma from `dualRightAction_apply_apply`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 44s · 257.4k in / 1.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...0861794b3c9797aca1200b913400d3bca57dc7f7) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md)</sub>

**Comment by ldct** [comment]
## AI review — blocked

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions faithfully encode two-sided nondegeneracy, the pinned right-dual action, and the finite-dimensional equivalence with right-module isomorphisms; no semantic correctness issue found. |
| ⛔ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md) | blocked | `codex/gpt-5.6-sol` | The right-dual action duplicates TauCeti’s existing canonical dual-action construction. |
| ▫️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/scope.md) | not yet run | `—` |  |
| ▫️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/attribution.md) | not yet run | `—` |  |
| ▫️ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/api-design.md) | not yet run | `—` |  |
| ▫️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/generality.md) | not yet run | `—` |  |
| ▫️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/placement.md) | not yet run | `—` |  |
| ▫️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/naming.md) | not yet run | `—` |  |
| ▫️ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/documentation.md) | not yet run | `—` |  |
| ▫️ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/proof-quality.md) | not yet run | `—` |  |

♻️ = approved on an earlier commit, re-run before merge. Halted at the `reuse` block; the deferred rubrics run once it clears.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/2115c5e9bdddba646ba6ed284327d2174f3935ee...0861794b3c9797aca1200b913400d3bca57dc7f7) at head `0861794`. rubrics @ [`603b280`](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics). Review spend: $0.65.</sub>

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `0861794b3c97`.

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (eohjelle) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ✅ api-design — now passing on `21925e2`.

Comment (eohjelle) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ✅ generality — now passing on `21925e2`.

Comment (eohjelle) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ✅ naming — now passing on `21925e2`.

Comment (eohjelle) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ✅ documentation — now passing on `21925e2`.

**Comment by eohjelle** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The pointwise correspondence is semantically faithful: the domain action has the correct multiplication order, evaluation at one is nondegenerate under projectivity, and the constructions are genuine inverses. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The pointwise equivalence is genuinely stronger than the existing existential characterization, and its supporting declarations reuse Mathlib’s `LinearMap.toPerfPair` and `Module.forall_dual_apply_eq_zero_iff`. No existing TauCeti or Mathlib declaration directly replaces the added API. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a single coherent refinement of already-merged Frobenius-functional material: the dual-action helper directly supports the pointwise equivalence extending the existing existential characterization. This modest generalization is automatically in scope under the refactor policy. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The pointwise equivalence packages declarations proved locally in the same modules; no identifiable external formalization or non-obvious source requires additional credit. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical API exposes both directions of the Frobenius-functional/right-dual correspondence, their inverse laws, evaluation and module-action lemmas, and suitable simp rules; the general right-dual evaluation result is public in its canonical dual-action module. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The previously over-strong ring assumptions on `IsSymmetricFrobeniusFunctional` have been removed, and the new declarations use hypotheses appropriate to their constructions. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The Frobenius correspondence is naturally placed in the existing Frobenius basic module, and the reusable right-linear dual-map lemma belongs in Dual/RightAction. Both new imports directly support the added declarations. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | Names describe their conclusions using standard terminology, declarations are appropriately namespaced, and no notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The module documentation accurately describes the added Frobenius-functional correspondence and dual-module action, and the substantive public declarations have useful docstrings consistent with their statements. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The changed proofs are concise and robust; coercion-sensitive steps use explicit rewrites and named lemmas, with no undocumented definitional-equality manipulation or substantial reasoning needing extraction. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/6cce7c2d6e3cef1100ce5c43b81bc649a801f7c7...21925e2c8bf9dd832b8e99c5f83d92b6c71c40dd) at head `21925e2`. rubrics @ [`603b280`](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics). Review spend: $11.13.</sub>

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (eohjelle) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `0861794`; the finding stands — `RightDual` is not a distinct bundled module, so its custom action leaks onto Mathlib’s ordinary dual type.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4018468700.</sub>

Comment (sqrt-of-2) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: The suggested fix does not typecheck, so the duplication claimed here is not available.

`TauCeti.dualRightAction k N` takes `{A} [Module Aᵐᵒᵖ N] [SMulCommClass Aᵐᵒᵖ k N]` and dualizes a **right** `A`-module `N` into a **left** `A`-module. The action in this file dualizes the **left** regular module of `A`, so the acting ring is `Aᵐᵒᵖ`, and the proposed `dualRightAction (A := Aᵐᵒᵖ) k A` therefore requires `A` to be a right `Aᵐᵒᵖ`-module, i.e. a `Module Aᵐᵒᵖᵐᵒᵖ A` instance. Mathlib has no such instance (`Semiring.toOppositeModule` gives `Module Rᵐᵒᵖ R`, which at `R = Aᵐᵒᵖ` is a module structure on `Aᵐᵒᵖ`, not on `A`):

```lean
import Mathlib.Algebra.Algebra.Bilinear
import Mathlib.Algebra.Module.Opposite
import TauCeti.LinearAlgebra.Dual.RightAction

variable (k A : Type) [Field k] [Ring A] [Algebra k A]
#synth Module (Aᵐᵒᵖ)ᵐᵒᵖ A
#synth SMulCommClass (Aᵐᵒᵖ)ᵐᵒᵖ k A
#synth Module Aᵐᵒᵖ A
```

```
error: failed to synthesize
  Module Aᵐᵒᵖᵐᵒᵖ A
error: failed to synthesize instance of type class
  SMul Aᵐᵒᵖᵐᵒᵖ A
Semiring.toOppositeModule
```

Supplying `Module Aᵐᵒᵖᵐᵒᵖ A` just to reach `dualRightAction` would add a new global instance on the underlying type `A` — exactly the kind of thing the implementation note in `TauCeti/LinearAlgebra/Dual/RightAction.lean` argues against — to save four short `ext …; simp` obligations.

What that file *does* say is that the action must not be a `Module` instance on every dual, and the pushed commit (`5d030fa`) now honours it: `RightDual` is a type synonym rather than an `abbrev`, the `Aᵐᵒᵖ`-action is attached only to the synonym, and `RightDual.ofDual`/`RightDual.toDual` transport between the two readings. Before that change, importing this file replaced Mathlib’s `LinearMap.module` as the `Module kᵐᵒᵖ (Module.Dual k k)` instance; it no longer does. The handedness difference is now recorded in the module’s implementation notes, with a pointer to `dualRightAction`.

Comment (eohjelle) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `5d030fa`; this clears the finding ✅ — approved on `5d030fa`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4021719582.</sub>

Comment (sqrt-of-2) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: Fixed in e5dd76a93, with one deliberate exception that I want to flag rather than have re-fire.

`@[expose] public section` is now plain `public section`, so `mulPairing`, `toRightDualLinearMap`, `toRightDualEquiv`, `ofRightDualEquiv` and `equivRightDualEquiv` are all opaque outside the module and are reached only through their characteristic lemmas (`mulPairing_apply`, `toRightDualLinearMap_apply_apply`, `toRightDualEquiv_apply_apply`, `ofRightDualEquiv_functional_apply`, `rightDualMap_apply_apply`), which already existed.

Three declarations keep an individual `@[expose]`: the type synonym `RightDual` and its transport equivalences `RightDual.ofDual`/`RightDual.toDual`. This is forced by the compiler, not a convenience. With `RightDual` unexposed, `lake build TauCeti.Algebra.Frobenius.Functional` fails on every instance and definition mentioning it:

```
error: TauCeti/Algebra/Frobenius/Functional.lean:92:0: Compilation failed, locally inferred
compilation type differs from type that would be inferred in other modules. Some of the
following definitions may need to be `@[expose]`d to fix this mismatch:
  RightDual ↦ 1
This is a current compiler limitation for `module`s that may be lifted in the future.
```

(same error at lines 84, 100, 103, 127, 138, 176, 287). Exposing `RightDual` alone still leaves the transport lemmas unprovable, since their content *is* the definitional identity:

```
error: TauCeti/Algebra/Frobenius/Functional.lean:105:0: Not a definitional equality: the
left-hand side
  (ofDual phi) a
is not definitionally equal to the right-hand side
  phi a

Note: This theorem is exported from the current module. This requires that all definitions
that need to be unfolded to prove this theorem must be exposed.
```

with the same for `toDual_apply` (109) and `RightDual.smul_apply` (131). So the three exposures are exactly the ones whose definitional transparency is the API, and no downstream proof can depend on an implementation choice through them — `RightDual` *is* `Module.Dual k A` and `ofDual`/`toDual` *are* the identity, which the module documentation already states. The implementation note now records this. `lake build` (11566 jobs), `lake exe axioms`, `lake exe lint-style` and the `#lint` environment set are all green on the new commit.

Comment (eohjelle) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `e5dd76a`; the finding stands — The opaque top-level equivalence lacks application lemmas, leaving its forward and inverse maps unusable through the intended API.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4021994774.</sub>

Comment (sqrt-of-2) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: The second point is fixed in 2b9c70bf9; I am contesting the first.

**Fixed (line 281):** `ofRightDualEquiv` and `ofRightDualEquiv_functional_apply` now live in the semiring section under `[CommSemiring k] [Semiring A] [Algebra k A] [Module.Projective k A]`, exactly as suggested — the field and `FiniteDimensional` hypotheses are gone from that direction. `Module.forall_dual_apply_eq_zero_iff` is itself semiring-general (`[AddCommMonoid V] [Semiring R] [Module R V] [Module.Projective R V]`), so `RightDual.forall_apply_eq_zero_iff` and the two nondegeneracy obligations go through unchanged. The forward map and the packaging (`toRightDualEquiv`, `equivRightDualEquiv`) keep the field and finite-dimensionality, as requested. The module docstring records the new hypothesis split.

**Contested (line 235): `[Ring A]` cannot be weakened to `[Semiring A]` in the finite-dimensional section — the section does not elaborate at all without `AddCommGroup A`.** `FiniteDimensional` is only defined for an additive group:

```
FiniteDimensional : (K : Type u_1) → (V : Type u_2) → [inst : DivisionRing K] →
  [inst_1 : AddCommGroup V] → [Module K V] → Prop
```

and `Algebra k A` over a field gives `A` an `AddCommMonoid`, not an `AddCommGroup` (`Module.addCommMonoidToAddCommGroup` is deliberately not an instance). I ran the suggested edit — replacing `[Ring A]` by `[Semiring A]` on the section `variable` line — and `lake build TauCeti.Algebra.Frobenius.Functional` fails on every declaration in the section:

```
error: .../Functional.lean:292:32: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:298:40: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:305:36: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:311:38: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:320:43: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:327:43: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:335:39: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:343:35: failed to synthesize instance of type class
  AddCommGroup A
error: .../Functional.lean:283:47: Application type mismatch: The argument
error: .../Functional.lean:282:2: Type mismatch
error: .../Functional.lean:289:47: Application type mismatch: The argument
error: .../Functional.lean:288:2: Type mismatch
```

The two type mismatches are `mulPairing_injective` and `mulPairing_flip_injective`: `LinearMap.ker_eq_bot` requires `[Ring R] [AddCommGroup M]`, and the `AddCommGroup` failures are `LinearMap.IsPerfPair.of_injective` (`[Field K] [AddCommGroup M] [AddCommGroup N]`) together with every `[FiniteDimensional k A]` binder. So the remaining declarations genuinely use the ring structure; `[Ring A]` is the weakest assumption under which the section states.

Also note that the finding's own premise — that these declarations "use only the semiring algebra structure" — is what the second point refutes: the one declaration in that section that really was semiring-general was `ofRightDualEquiv`, and it has now been moved out.

`lake build` (11566 jobs), `lake exe axioms` (118326 declarations, allowlist only), `lake exe lint-style` and `scripts/lint-env.sh` are all green on 2b9c70bf9.

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `2b9c70bf9853`.

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (eohjelle) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: **Re: your reply on `generality` —** re-reviewed on `2b9c70b`; this clears the finding ✅ — approved on `2b9c70b`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4022227597.</sub>

Comment (eohjelle) [inline TauCeti/Algebra/Frobenius/Functional.lean:1]: ### ✅ reuse — now passing on `21925e2`.

Comment (sqrt-of-2) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: The block is right, and I am not contesting it: I deleted `TauCeti/Algebra/Frobenius/Functional.lean` in 4adfafe67, so this PR is now empty and should be closed as superseded.

**Why.** This branch was cut at `fc7a5c3`, which predates #6833. That PR landed `TauCeti/Algebra/Algebra/Frobenius/Basic.lean` on main with `LinearMap.IsFrobeniusFunctional`, `LinearMap.IsSymmetricFrobeniusFunctional`, `LinearMap.IsFrobeniusFunctional.isPerfPair` and `LinearMap.exists_isFrobeniusFunctional_iff`, plus the Nakayama automorphism and two-sided self-injectivity — the whole roadmap paragraph this PR was aiming at, and more. `RightDual`, `FrobeniusFunctional`, `SymmetricFrobeniusFunctional`, `mulPairing` and the right-dual equivalence here are all a second surface for that, so there is nothing in the file worth keeping.

**On the second half of the suggested fix** ("build any genuinely stronger pointwise equivalence on `LinearMap.IsFrobeniusFunctional`"): that increment has to be written into `TauCeti/Algebra/Algebra/Frobenius/Basic.lean`, which does not exist on this branch's base. The only way to reach it from here is to merge `main` into the PR branch, and the sanctioned push wrapper refuses that: its identity gate scans every commit the push would add and rejects the third-party author addresses carried by main's own commits. So the increment needs a branch cut from current `main`, not this PR.

I did write and verify it against `main` (`c48efdc`) before hitting that wall, so it is not lost. There `lake build` completed successfully (11673 jobs), `lake exe axioms` audited 119970 declarations within the allowlist, and `scripts/lint-style.sh`, `scripts/lint-env.sh` (`PASS — no new violations`) and `scripts/lint-dot-notation.py` (`0 new`) were clean. It builds `toDualEquiv` from `hφ.isPerfPair` through Mathlib's `LinearMap.toPerfPair`, extracts the converse that was inlined in `exists_isFrobeniusFunctional_iff`, packages the two as a bijection, and re-proves the existing existence statement from them:

```diff
diff --git a/TauCeti/Algebra/Algebra/Frobenius/Basic.lean b/TauCeti/Algebra/Algebra/Frobenius/Basic.lean
index a85c507a7..fae3ad920 100644
--- a/TauCeti/Algebra/Algebra/Frobenius/Basic.lean
+++ b/TauCeti/Algebra/Algebra/Frobenius/Basic.lean
@@ -27,7 +27,8 @@ For `A` finite-dimensional over a field this file proves the standard characteri
   `A ≅ A⁺` between the regular module and the `k`-dual `A⁺ = Module.Dual k A`, on which `A` acts on
   the right by `(ψ · c) b = ψ (c * b)`. That right action is written with Mathlib's domain action
   `DomMulAct.mk c • ψ`. The isomorphism attached to `φ` is `a ↦ φ (a * ·)`, and conversely an
-  isomorphism `e` recovers the functional `e 1`.
+  isomorphism `e` recovers the functional `e 1`. These two constructions are inverse to each other,
+  so Frobenius functionals and such isomorphisms correspond one to one.
 * A Frobenius functional determines its **Nakayama automorphism** `ν`, the unique map with
   `φ (a * b) = φ (b * ν a)`; it is a `k`-algebra automorphism, and it is the identity exactly when
   `φ` is symmetric.
@@ -40,6 +41,10 @@ The trace of square matrices is the basic example; see `TauCeti.Algebra.Algebra.
 
 * `LinearMap.IsFrobeniusFunctional`: the form `(a, b) ↦ φ (a * b)` is nondegenerate.
 * `LinearMap.IsSymmetricFrobeniusFunctional`: a Frobenius functional with `φ (a * b) = φ (b * a)`.
+* `LinearMap.IsFrobeniusFunctional.toDualEquiv`: the isomorphism `A ≅ A⁺` of right `A`-modules
+  attached to a Frobenius functional on a finite-dimensional algebra.
+* `TauCeti.frobeniusFunctionalEquivDualEquiv`: the resulting bijection between Frobenius
+  functionals and isomorphisms `A ≅ A⁺` of right `A`-modules.
 * `LinearMap.IsFrobeniusFunctional.nakayamaAut`: the Nakayama automorphism of a Frobenius
   functional on a finite-dimensional algebra.
 
@@ -126,6 +131,11 @@ theorem _root_.LinearMap.IsFrobeniusFunctional.op (hφ : φ.IsFrobeniusFunctiona
 
 end Nondegenerate
 
+/-- An isomorphism of right `A`-modules from `A` to its dual is determined by its value at `1`. -/
+theorem dualEquiv_apply_apply {e : A ≃ₗ[k] Module.Dual k A}
+    (he : ∀ a c : A, e (a * c) = DomMulAct.mk c • e a) (a b : A) : e a b = e 1 (a * b) := by
+  simpa [DomMulAct.smul_linearMap_apply] using LinearMap.congr_fun (he 1 a) b
+
 end CommRing
 
 /-! ### Finite-dimensional algebras -/
@@ -159,25 +169,86 @@ theorem _root_.LinearMap.isFrobeniusFunctional_iff_bijective :
   ⟨fun hφ => hφ.isPerfPair.bijective_left,
     fun h => .of_left fun a ha => h.injective (LinearMap.ext fun b => by simpa using ha b)⟩
 
+/-! ### Frobenius functionals and the dual module -/
+
+/-- The isomorphism of right `A`-modules `A ≃ₗ[k] Module.Dual k A` attached to a Frobenius
+functional `φ` on a finite-dimensional algebra: it sends `a` to `b ↦ φ (a * b)`. Its
+right-linearity is `LinearMap.IsFrobeniusFunctional.toDualEquiv_mul`. -/
+noncomputable def _root_.LinearMap.IsFrobeniusFunctional.toDualEquiv
+    (hφ : φ.IsFrobeniusFunctional) : A ≃ₗ[k] Module.Dual k A :=
+  have := hφ.isPerfPair
+  ((LinearMap.mul k A).compr₂ φ).toPerfPair
+
+@[simp]
+theorem _root_.LinearMap.IsFrobeniusFunctional.toDualEquiv_apply_apply
+    (hφ : φ.IsFrobeniusFunctional) (a b : A) : hφ.toDualEquiv a b = φ (a * b) := by
+  simp [LinearMap.IsFrobeniusFunctional.toDualEquiv]
+
+/-- The isomorphism attached to a Frobenius functional is an isomorphism of right `A`-modules,
+where `c : A` acts on the right of a functional `ψ` by `b ↦ ψ (c * b)`, that is by
+`DomMulAct.mk c • ψ`. -/
+theorem _root_.LinearMap.IsFrobeniusFunctional.toDualEquiv_mul (hφ : φ.IsFrobeniusFunctional)
+    (a c : A) : hφ.toDualEquiv (a * c) = DomMulAct.mk c • hφ.toDualEquiv a := by
+  ext b
+  simp [DomMulAct.smul_linearMap_apply, mul_assoc]
+
+/-- The isomorphism attached to a Frobenius functional gives it back at `1`. -/
+@[simp]
+theorem _root_.LinearMap.IsFrobeniusFunctional.toDualEquiv_one (hφ : φ.IsFrobeniusFunctional) :
+    hφ.toDualEquiv 1 = φ := by
+  ext b
+  simp
+
+/-- The value at `1` of an isomorphism of right `A`-modules from `A` to its dual is a Frobenius
+functional. -/
+theorem _root_.LinearMap.isFrobeniusFunctional_apply_one {e : A ≃ₗ[k] Module.Dual k A}
+    (he : ∀ a c : A, e (a * c) = DomMulAct.mk c • e a) : (e 1).IsFrobeniusFunctional :=
+  .of_left fun a ha => e.injective <| LinearMap.ext fun b => by
+    rw [dualEquiv_apply_apply he a b, ha b, map_zero, LinearMap.zero_apply]
+
 /-- **Frobenius functionals and the dual module.** A finite-dimensional algebra carries a Frobenius
 functional if and only if its regular right module is isomorphic to the dual `Module.Dual k A`,
 where `c : A` acts on the right of a functional `ψ` by `b ↦ ψ (c * b)`, that is by
-`DomMulAct.mk c • ψ`. -/
+`DomMulAct.mk c • ψ`. The two constructions are inverse to each other, see
+`TauCeti.frobeniusFunctionalEquivDualEquiv`. -/
 theorem _root_.LinearMap.exists_isFrobeniusFunctional_iff :
     (∃ φ : A →ₗ[k] k, φ.IsFrobeniusFunctional) ↔
-      ∃ e : A ≃ₗ[k] Module.Dual k A, ∀ a c : A, e (a * c) = DomMulAct.mk c • e a := by
-  constructor
-  · rintro ⟨φ, hφ⟩
-    refine ⟨.ofBijective _ (LinearMap.isFrobeniusFunctional_iff_bijective.mp hφ), fun a c => ?_⟩
-    ext b
-    simp [DomMulAct.smul_linearMap_apply, mul_assoc]
-  · rintro ⟨e, he⟩
-    -- An isomorphism of right modules is determined by the image of `1`.
-    have hea : ∀ a b : A, e a b = e 1 (a * b) := fun a b => by
-      simpa [DomMulAct.smul_linearMap_apply] using LinearMap.congr_fun (he 1 a) b
-    refine ⟨e 1, .of_left fun a ha => e.injective ?_⟩
-    ext b
-    rw [hea a b, ha b, map_zero, LinearMap.zero_apply]
+      ∃ e : A ≃ₗ[k] Module.Dual k A, ∀ a c : A, e (a * c) = DomMulAct.mk c • e a :=
+  ⟨fun ⟨_, hφ⟩ => ⟨hφ.toDualEquiv, hφ.toDualEquiv_mul⟩,
+    fun ⟨_, he⟩ => ⟨_, LinearMap.isFrobeniusFunctional_apply_one he⟩⟩
+
+/-- The isomorphism attached to the Frobenius functional recovered from an isomorphism of right
+`A`-modules is that isomorphism again. -/
+theorem toDualEquiv_isFrobeniusFunctional_apply_one {e : A ≃ₗ[k] Module.Dual k A}
+    (he : ∀ a c : A, e (a * c) = DomMulAct.mk c • e a) :
+    (LinearMap.isFrobeniusFunctional_apply_one he).toDualEquiv = e :=
+  LinearEquiv.ext fun a => LinearMap.ext fun b => by
+    rw [LinearMap.IsFrobeniusFunctional.toDualEquiv_apply_apply]
+    exact (dualEquiv_apply_apply he a b).symm
+
+variable (k A) in
+/-- **Frobenius functionals are the isomorphisms `A ≅ A⁺` of right modules.** The pointwise form of
+`LinearMap.exists_isFrobeniusFunctional_iff`: a Frobenius functional `φ` on a finite-dimensional
+algebra goes to the isomorphism `a ↦ φ (a * ·)` of the regular right module with the dual, an
+isomorphism `e` goes back to the functional `e 1`, and these are inverse to each other. -/
+@[expose]
+noncomputable def frobeniusFunctionalEquivDualEquiv :
+    {φ : A →ₗ[k] k // φ.IsFrobeniusFunctional} ≃
+      {e : A ≃ₗ[k] Module.Dual k A // ∀ a c : A, e (a * c) = DomMulAct.mk c • e a} where
+  toFun φ := ⟨φ.2.toDualEquiv, φ.2.toDualEquiv_mul⟩
+  invFun e := ⟨e.1 1, LinearMap.isFrobeniusFunctional_apply_one e.2⟩
+  left_inv φ := Subtype.ext φ.2.toDualEquiv_one
+  right_inv e := Subtype.ext (toDualEquiv_isFrobeniusFunctional_apply_one e.2)
+
+@[simp]
+theorem frobeniusFunctionalEquivDualEquiv_apply_coe
+    (φ : {φ : A →ₗ[k] k // φ.IsFrobeniusFunctional}) :
+    (frobeniusFunctionalEquivDualEquiv k A φ : A ≃ₗ[k] Module.Dual k A) = φ.2.toDualEquiv := rfl
+
+@[simp]
+theorem frobeniusFunctionalEquivDualEquiv_symm_apply_coe
+    (e : {e : A ≃ₗ[k] Module.Dual k A // ∀ a c : A, e (a * c) = DomMulAct.mk c • e a}) :
+    ((frobeniusFunctionalEquivDualEquiv k A).symm e : A →ₗ[k] k) = e.1 1 := rfl
 
 /-! ### The Nakayama automorphism -/
 
```

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `3ddade913cb6`.

File: TauCeti/Algebra/Frobenius/Functional.lean
Comment (eohjelle) [reply TauCeti/Algebra/Frobenius/Functional.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `3ddade9`; this clears the finding ✅ — approved on `3ddade9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4022788906.</sub>

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `6560cb7c15f4`.

File: TauCeti/Algebra/Algebra/Frobenius/Basic.lean
Comment (eohjelle) [inline TauCeti/Algebra/Algebra/Frobenius/Basic.lean:1]: ### ✅ proof-quality — now passing on `21925e2`.

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `485807737089`.

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `21925e2c8bf9`.
